US20010027196A1
6-Furan-2-yl-N4-(2-methoxy-ethyl)-5-nitro-pyrimidine-2,4-diamine
From trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester and 2-methoxyethylamine in DME. ES-MS m/e (%): 280 (M+H+, 100).

reactant | trifluoro-methanesulfonic acid 2-amino-6-furan-2-yl-5-nitro-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=1OC=CC1 | C9H5F3N4O6S
reactant | 2-methoxyethylamine | COCCN | C3H9NO
solvent | DME | COCCOC | C4H10O2
product | 6-Furan-2-yl-N4-(2-methoxy-ethyl)-5-nitro-pyrimidine-2,4-diamine | O1C(=CC=C1)C1=C(C(=NC(=N1)N)NCCOC)[N+](=O)[O-] | C11H13N5O4
